US04545936
The entire amount of 9(R)-bromoacetyl-4,6,9,11-tetrahydroxy-5,7,8,9,10,12-hexahydronaphthacene-5,12-dione was dissolved in acetone (110 ml). Potassium acetate (270 mg) was added to the above solution and the mixture was allowed to react at room temperature for 2 hours, followed by addition of water (100 ml). The precipitated crystals were collected by filtration to give reddish orange crystals of 9(R)-acetoxyacetyl-4,6,9,11-tetrahydroxy-5,7,8,9,10,12-hexahydronaphthacene-5,12-dione. M.P. 215°-217° C.

reactant | 9(R)-bromoacetyl-4,6,9,11-tetrahydroxy-5,7,8,9,10,12-hexahydronaphthacene-5,12-dione | BrCC(=O)[C@]1(CCC=2C(=C3C(C=4C(=CC=CC4C(C3=C(C2C1)O)=O)O)=O)O)O | C20H15BrO7
reactant | Potassium acetate | 270 mg | C(C)(=O)[O-].[K+]
reactant | water | 100 ml | O | H2O
solvent | acetone | 110 ml | CC(=O)C | C3H6O
product | 9(R)-acetoxyacetyl-4,6,9,11-tetrahydroxy-5,7,8,9,10,12-hexahydronaphthacene-5,12-dione | C(C)(=O)OCC(=O)[C@]1(CCC=2C(=C3C(C=4C(=CC=CC4C(C3=C(C2C1)O)=O)O)=O)O)O | C22H18O9
